US07863291B2
6-Chloropyrimidin-4-amine (0.324 g, 2.5 mmol), pyridin-4-ylboronic acid (0.384 g, 3.13 mmol), Na2CO3 (0.795 g, 7.50 mmol) and bis(triphenylphosphine)palladium(II)chloride (0.035 g, 0.050 mmol) were suspended in a mixture of DME/EtOH/water (15:2:3 mL). The mixture was heated in the microwave synthesizer at 125° C. for 20 min and concentrated. The residue was purified by silica gel chromatography (5-25% [9:1 methanol:ammonium hydroxide]-ethyl acetate) to afford 6-(pyridin-3-yl)pyrimidin-4-amine (0.15 g, 0.871 mmol, 35% yield) as an off-white solid. LCMS R.T.=0.30; [M+H]+=173.11.

reactant | 6-Chloropyrimidin-4-amine | 2.5 mmol, 0.324 g | ClC1=CC(=NC=N1)N | C4H4ClN3
reactant | pyridin-4-ylboronic acid | 3.13 mmol, 0.384 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 7.50 mmol, 0.795 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME EtOH water | 3 mL | COCCOC.CCO.O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.050 mmol, 0.035 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-(pyridin-3-yl)pyrimidin-4-amine | 0.871 mmol, 0.15 g, 35% yield | N1=CC(=CC=C1)C1=CC(=NC=N1)N | C9H8N4
